US06908935B2
Step 5) 4-Methoxy-3-(4-methoxyphenyl)benzylamine:
A solution of 4-methoxy-3-(4-methoxyphenyl)benzylazide (0.82 g, 3.07 mmol) in ethanol (50 mL) was hydrogenated under atmospheric pressure for 16 hours. The catalyst was filtered off, the solvent removed under reduced pressure and the crude purified by column chromatography (hexane/ethyl acetate 6/1) to afford 400 mg of title compound.

reactant | 4-methoxy-3-(4-methoxyphenyl)benzylazide | 3.07 mmol, 0.82 g | COC1=C(C=C(CN=[N+]=[N-])C=C1)C1=CC=C(C=C1)OC | C15H15N3O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-Methoxy-3-(4-methoxyphenyl)benzylamine | 400 mg | COC1=C(C=C(CN)C=C1)C1=CC=C(C=C1)OC | C15H17NO2
